US04668697
Step B: Preparation of 5-Hydroxy-2-sulfamoylbenzo[b]thiophene
Pyridine hydrochloride (50 g) was heated to 190° C. and to the melt was added 5-methoxy-2-sulfamoylbenzo[b]thiophene (12.78 g, 0.053 m). The mixture was stirred at 190° C. for 2 hours and then poured into ice and extracted with ethyl acetate (3×200 ml). The combined extract was washed with 3N HCl, dried over Na2SO4 and filtered through a pad of filter aid and charcoal. The filtrate was concentrated under reduced pressure and the residue was crystallized from nitromethane to yield 7.83 g (64%) of product melting at 197°-198.5° C. An analytical sample melted at 192.5°-193.5° C. after recrystallization from nitromethane and treatment with decolorizing carbon.

reactant | Pyridine hydrochloride | 50 g | Cl.N1=CC=CC=C1
reactant | 5-methoxy-2-sulfamoylbenzo[b]thiophene | 12.78 g | COC1=CC2=C(SC(=C2)S(N)(=O)=O)C=C1 | C9H9NO3S2
product | 5-Hydroxy-2-sulfamoylbenzo[b]thiophene | 7.83 g, 64% | OC1=CC2=C(SC(=C2)S(N)(=O)=O)C=C1 | C8H7NO3S2
